US09260469B2
Preparation of (2R,3S,5R)-5-(2-Oxo-6-(4-pentylphenyl)furo[2,3-d]pyrimidin-3(2H)-yl)-2-(hydroxymethyl)tetrahydrofuran-3-yl Benzyl Carbonate
To a 10 mL flask was added 20 mg (0.2 mmol) of (2R,3S,5R)-5-(2-oxo-6-(4-pentylphenyl)furo[2,3-d]pyrimidin-3(2H)-yl)-2-((tert-butyldimethylsilyloxy)methyl)-tetrahydrofuran-3-yl benzyl carbonate, 2 mL of EtOAc, 2 mL of EtOH and 0.5 mL of 37% aqueous HCl. The mixture was stirred at rt for 0.5 h.

reactant | (2R,3S,5R)-5-(2-oxo-6-(4-pentylphenyl)furo[2,3-d]pyrimidin-3(2H)-yl)-2-((tert-butyldimethylsilyloxy)methyl)-tetrahydrofuran-3-yl benzyl carbonate | 0.2 mmol, 20 mg | C(O[C@@H]1[C@H](O[C@H](C1)N1C(N=C2C(=C1)C=C(O2)C2=CC=C(C=C2)CCCCC)=O)CO[Si](C)(C)C(C)(C)C)(OCC2=CC=CC=C2)=O | C36H46N2O7Si
reactant | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
reactant | HCl | 0.5 mL | Cl | ClH
solvent | EtOH | 2 mL | CCO | C2H6O
product | (2R,3S,5R)-5-(2-Oxo-6-(4-pentylphenyl)furo[2,3-d]pyrimidin-3(2H)-yl)-2-(hydroxymethyl)tetrahydrofuran-3-yl Benzyl Carbonate | C(O[C@@H]1[C@H](O[C@H](C1)N1C(N=C2C(=C1)C=C(O2)C2=CC=C(C=C2)CCCCC)=O)CO)(OCC2=CC=CC=C2)=O | C30H32N2O7
